US06248753B1
Butyl-[3,6dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]ethylamine
A mixture of 4-chloro-3,6-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridine (98 mg, 0.33 mmol), N-butylethylamine (1 ml) in DMSO (2 ml) was heated in an oil bath at 175-180° C. for 20 hours. The reaction mixture was quenched with saturated ammonium chloride and extracted with EtOAc. The organic layer was washed with brine, dried, and concentrated to give a brown oil. The oil residue was purified through silica gel column chromatography using EtOAc/Hexane in a ratio of 1/9 as eluent to give a colorless oil. 1H NMR (CDCl3) 6.92 (s, 2H), 6.29 (s, 1H), 3.42 (q, 2H), 3.27 (t, 2H), 2.65 (s, 3H), 2.44 (s, 3H), 2.30 (s, 3H), 1.91 (s, 6H), 1.57 (m, 2H), 1.33 (m, 2H), 1.13 (t, 3H), 0.90 (t, 3H) ppm. IR (neat) 2960, 2920, 1570 cm−1. High MS, calc. 364.2627, found 364.26306.

reactant | 4-chloro-3,6-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridine | 0.33 mmol, 98 mg | ClC1=C2C(=NC(=C1)C)N(N=C2C)C2=C(C=C(C=C2C)C)C | C17H18ClN3
reactant | N-butylethylamine | 1 ml | C(CCC)NCC | C6H15N
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | Butyl-[3,6dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]ethylamine | C(CCC)NCCC1=C2C(=NC(=C1)C)N(N=C2C)C2=C(C=C(C=C2C)C)C | C23H32N4
